US08975265B2
(1-{4-[3-phenyl-7-(1H-pyrazol-3-yl)-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester
To a solution of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (200 mg, 0.38 mmol), and 1-(tert-butoxycarbonyl)pyrazole-5-boronic acid (164 mg, 0.77 mmol, 2 equiv) in dioxane (4 mL) under argon was added [1,1-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) CH2Cl2 complex (63 mg, 0.77 mmol, 20 mol %), Na2CO3 (123 mg, 1.16 mmol, 3 equiv) and water (0.5 mL). The resulting mixture was heated at 105° C. for 8 h in a microwave apparatus. The reaction mixture was mixed with water (10 mL), a saturated aqueous NH4Cl solution (10 mL) and CH2Cl2 (25 mL) with vigorous stirring at room temperature for 30 min. The organic phase was washed with a saturated aqueous NaCl solution (25 mL), dried (Na2SO4 anh), and concentrated under reduced pressure.

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.38 mmol, 200 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | 1-(tert-butoxycarbonyl)pyrazole-5-boronic acid | 0.77 mmol, 164 mg, 2 equiv | C(C)(C)(C)OC(=O)N1N=CC=C1B(O)O | C8H13BN2O4
reactant | Na2CO3 | 1.16 mmol, 123 mg, 3 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | (1-{4-[3-phenyl-7-(1H-pyrazol-3-yl)-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C2=NNC=C2)C1C1=CC=CC=C1)=O | C31H31N5O2
